US09102662B2
Preparation of 2-nitro-terephthalic acid 1-tert-butyl ester 4-methyl ester
Commercially available 2-nitro-terephthalic acid 4-methyl ester (4.84 g, 21.49 mmol) in DCM (54 mL) was treated with tert-butanol (4.05 mL, 42.99 mmol), di-tert-butyl dicarbonate (12.19 g, 55.87 g) and DMAP (0.79 g, 6.45 mmol). After 4 days at room temperature, the reaction was diluted with DCM (100 mL), washed with 1N HCl (100 mL), aqueous NaHCO3 and finally with water. After drying over sodium sulphate and evaporation of the volatiles, the title compound was obtained as a brownish oil in more than quantitative yield (6.51 g). The crude was employed in the following step with no further purification.

reactant | 2-nitro-terephthalic acid 4-methyl ester | 21.49 mmol, 4.84 g | COC(C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])=O | C9H7NO6
reactant | tert-butanol | 42.99 mmol, 4.05 mL | C(C)(C)(C)O | C4H10O
reactant | di-tert-butyl dicarbonate | 12.19 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 54 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 6.45 mmol, 0.79 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-nitro-terephthalic acid 1-tert-butyl ester 4-methyl ester | more than quantitative yield | COC(C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-])=O | C13H15NO6
